US06979545B2
The test compounds as listed in Table 2 to be screened are dissolved in dimethyl sulfoxide (DMSO) to a final concentration of 10 mM, and 2 μL is transferred to the wells of a polypropylene 96-well microtiter plate. GSH stock solution (1.525 mM) is prepared daily in 10 mM ammonium acetate buffer (pH 7.4). GSH working solution (208 μM) is prepared by diluting the stock solution with acetonitrile just prior to use. Mercury orange (HgO) stock solution (470 μM) is prepared in acetone and stored at 4° C. HgO working solution (66.6 μM) is prepared by diluting the stock solution in acetonitrile just prior to use. A 48 μL aliquot of the GSH working solution is pipetted into the 96-well tray containing the test compounds to yield a final concentration of 200 μM GSH. The reaction of the test compound with the GSH is allowed to proceed for 1 h at room temperature after which time an aliquot of HgO is added to each reaction well to yield a final concentration of 50 μM GSH/HgO. The GSH/HgO reaction is allowed to stand for 5 min at room temperature and analyzed using fluorescence micro plate reader detection (28° C., 485ex, 612em). Assay linearity is investigated by preparing a GSH standard curve in the concentration range 0 to 50 μM (final concentration). Routine sample analysis is achieved using a Biomek 2000 biorobotic system configured with six 96-well plates and 2 reagent reservoirs.

reactant | GSH | C(CC(=O)N[C@@H](CS)C(=O)NCC(=O)O)[C@@H](C(=O)O)N | C10H17N3O6S
reactant | HgO | C1=CC=C\2C(=C1)C=CC(=O)/C2=N\NC3=CC=C(C=C3)[Hg]Cl
product | GSH HgO | C(CC(=O)N[C@@H](CS)C(=O)NCC(=O)O)[C@@H](C(=O)O)N.C1=CC=C\2C(=C1)C=CC(=O)/C2=N\NC3=CC=C(C=C3)[Hg]Cl | InChI=1S/C16H11N2O.C10H17N3O6S.ClH.Hg/c19-15-11-10-12-6-4-5-9-14(12)16(15)18-17-13-7-2-1-3-8-13;11-5(10(18)19)1-2-7(14)13-6(4-20)9(17)12-3-8(15)16;;/h2-11,17H;5-6,20H,1-4,11H2,(H,12,17)(H,13,14)(H,15,16)(H,18,19);1H;/q;;;+1/p-1/b18-16-;;;/t;5-,6-;;/m.0../s1
